US06900244B2
Step 1 2-{4-[(2,4-Dichlorobenzyl)amino]phenyl}-1,1,1,3,3,3-hexafluoropropan-2-ol
A solution of 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (Oakwoood, 1 g, 3.9 mmol) and 2,4-dichlorobenzaldehyde in methanol (21 mL) was stirred at ambient temperature. After 18 hours, glacial acetic acid (0.24 mL, 4.25 mmol) and sodium cyanoborohydride (388 mg, 4.25 mmol) were added. After stirring an additional 18 hours, the mixture was concentrated in vacuo and the residue dissolved in EtOAc. The organic layer was washed several times with brine, dried (Na2SO4), filtered, and concentrated. Purification by flash chromatography (4:1 hexanes/EtOAc) afforded the title compound as a white waxy solid (1.6 g, 99%). MS (ES+) m/z 418 (M+), 420 (M+2).

reactant | 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.9 mmol, 1 g | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | 2,4-dichlorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | acetic acid | 4.25 mmol, 0.24 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.25 mmol, 388 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 21 mL | CO | CH4O
product | 2-{4-[(2,4-Dichlorobenzyl)amino]phenyl}-1,1,1,3,3,3-hexafluoropropan-2-ol | ClC1=C(CNC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=CC(=C1)Cl | C16H11Cl2F6NO
